US05206242
(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)-oxirane
33 g (0.15 mole) of trimethylsulfoxonium iodide were added at room temperature to a solution of 17 g (0.15 mole) of potassium tert-butylate in 150 ml of dried dimethyl sulfoxide. The mixture was stirred for 0.5 hour, after which a solution of 32.5 g (0.15 mole) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthaldehyde in 100 ml of tetrahydrofuran was added dropwise. Stirring was continued for 1 hour, after which the mixture was poured onto water and extracted with ether. The organic phase was washed with water, dried over magnesium sulfate and evaporated down. 31.3 g of (5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)-oxirane remained. The structure was determined by H-NMR spectroscopy.

reactant | trimethylsulfoxonium iodide | 0.15 mole, 33 g | [I-].C[S+](=O)(C)C
reactant | potassium tert-butylate | 0.15 mole, 17 g | CC(C)(C)[O-].[K+]
reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthaldehyde | 0.15 mole, 32.5 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=O)C | C15H20O
solvent | dimethyl sulfoxide | 150 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)-oxirane | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1OC1)C | C16H22O
